US07319104B2
A solution of 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]pyrimidin-2-amine (0.83 g; 3.07 mmol) and 4-trifluoromethoxy benzyl bromide (1.18 g; 4.61 mmol) in dry DMF (6 ml) was treated under nitrogen with NaH (95% dispersion in oil; 0.12 g; 4.61 mmol) and the mixture heated at 60C for 1 hr. Cooled to rt and quenched with a saturated solution of ammonium chloride. Diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated. Purification by flash chromatography on silica gel using dichloromethane-hexane mixture (4:1) afforded 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]-N-[4-(trifluoromethoxy)benzyl]pyrimidin-2-amine (1.26 g; 82% yield).

reactant | 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]pyrimidin-2-amine | 3.07 mmol, 0.83 g | C(C)C=1C=NC(=NC1)NCCC1=CC(=C(C=C1)OC)C | C16H21N3O
reactant | 4-trifluoromethoxy benzyl bromide | 4.61 mmol, 1.18 g | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | NaH | 4.61 mmol, 0.12 g | [H-].[Na+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]-N-[4-(trifluoromethoxy)benzyl]pyrimidin-2-amine | 1.26 g, 82% yield | C(C)C=1C=NC(=NC1)N(CC1=CC=C(C=C1)OC(F)(F)F)CCC1=CC(=C(C=C1)OC)C | C24H26F3N3O2
